US08404709B2
3-Cyano-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-1,6-naphthyridin-5-yl trifluoromethanesulfonate
100 mg (0.290 mmol) of 2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile are introduced into 5 ml of pyridine, 163 mg (0.579 mmol) of trifluoromethanesulfonic anhydride are added, and the mixture is stirred at room temperature for 1 h. The mixture is concentrated and the residue is purified by preparative HPLC (eluent: acetonitrile/water with 0.1% formic acid; gradient 20:80→95:5). 80 mg (58% of theory) of the title compound are obtained.

reactant | 2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile | 0.290 mmol, 100 mg | CC=1NC=2C=CNC(C2C(C1C#N)C=1C=CC=C2C(C=C(OC12)C)=O)=O | C20H15N3O3
reactant | trifluoromethanesulfonic anhydride | 0.579 mmol, 163 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-Cyano-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-1,6-naphthyridin-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C2C(C(=C(NC2=CC=N1)C)C#N)C=1C=CC=C2C(C=C(OC12)C)=O)(F)F | C21H14F3N3O5S
